US06013663
Methyl 3-[3-(1,2-dithiolan-3-yl)propionylamino]propionate
5 ml of anhydrous tetrahydrofuran were added to 6 ml of a mixture of 2.5 mmol of 3-(1,2-dithiolan-3-yl)propionic acid in a mixture of ethyl acetate and dimethylformamide. 0.6 ml of triethylamine, 349 mg of β-alanine methyl ester hydrochloride and 0.38 ml of diethyl cyanophosphate were added to the reaction solution, whilst ice-cooling, and the resulting mixture was stirred, whilst ice-cooling for 1 hour. At the end of this time, the reaction mixture was stirred at room temperature for 30 minutes, and then the solvent was removed from the reaction mixture by evaporation under reduced pressure. Water was added to the residue, and the mixture was extracted with ethyl acetate. The extraction solution was washed with a saturated aqueous solution of sodium chloride and dried over anhydrous sodium sulfate. The ethyl acetate was removed from the extraction solution by evaporation under reduced pressure, and the residue was subjected to silica gel column chromatography, using 2:1,3:1 and 1:0 by volume mixtures of ethyl acetate and hexane as the eluent. The residue was then subjected to reverse phase preparative silica gel column chromatography, using a 2:3 by volume mixture of acetonitrile and water as a eluent, and the acetonitrile was removed from the solution by evaporation under reduced pressure, after which the residue was extracted with ethyl acetate. The extraction solution was washed with a saturated aqueous solution of sodium chloride and dried over anhydrous sodium sulfate. The ethyl acetate was removed from the extraction solution by evaporation under reduced pressure, and the residue was dissolved in dioxane and then lyoiphilised, to obtain 229 mg of the title compound as a yellow oil having an Rf value of 0.24 (silica gel thin layer chromatography; using a 3:1 by volume mixture of ethyl acetate and hexane as developing solvent).

reactant | tetrahydrofuran | 5 ml | O1CCCC1 | C4H8O
reactant | 3-(1,2-dithiolan-3-yl)propionic acid | 2.5 mmol | S1SC(CC1)CCC(=O)O | C6H10O2S2
reactant | β-alanine methyl ester hydrochloride | 349 mg | Cl.COC(CCN)=O
reactant | diethyl cyanophosphate | 0.38 ml | P(=O)(OCC)(OCC)C#N | C5H10NO3P
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
solvent | dimethylformamide | CN(C=O)C | C3H7NO
solvent | triethylamine | 0.6 ml | C(C)N(CC)CC | C6H15N
product | Methyl 3-[3-(1,2-dithiolan-3-yl)propionylamino]propionate | 229 mg | S1SC(CC1)CCC(=O)NCCC(=O)OC | C10H17NO3S2
